US09359359B2
To a solution of 3-ethyl-1-(3-hydroxypropyl)-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione (110 mg, 0.22 mmol) in DMF (3 mL) was added 5-(chloromethyl)-2-methylpyridine (50 mg, 0.4 mmol), potassium carbonate (91 mg, 0.66 mmol), and TBAI (2 mg, 0.02 mmol). The reaction was heated at 50° C. overnight. The mixture was cooled and partitioned between ethyl acetate and water. The combined organic layer was dried over sodium sulfate, filtered and concentrated to give a crude product, which was purified by preparative HPLC to give 3-ethyl-1-(3-hydroxypropyl)-7-((6-methylpyridin-3-yl)methyl)-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione (30 mg, 44.8% yield) as a white solid.

reactant | 3-ethyl-1-(3-hydroxypropyl)-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione | 0.22 mmol, 110 mg | C(C)N1C(N(C(C=2NC(=NC12)OC1=CC(=CC=C1)OC(F)(F)F)=O)CCCO)=O | C17H17F3N4O5
reactant | 5-(chloromethyl)-2-methylpyridine | 0.4 mmol, 50 mg | ClCC=1C=CC(=NC1)C | C7H8ClN
reactant | potassium carbonate | 0.66 mmol, 91 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | TBAI | 0.02 mmol, 2 mg | CCCC[N+](CCCC)(CCCC)CCCC.[I-]
product | 3-ethyl-1-(3-hydroxypropyl)-7-((6-methylpyridin-3-yl)methyl)-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione | 30 mg, 44.8% yield | C(C)N1C(N(C(C=2N(C(=NC12)OC1=CC(=CC=C1)OC(F)(F)F)CC=1C=NC(=CC1)C)=O)CCCO)=O | C24H24F3N5O5
